US06423716B1
To a methylene chloride solution (50 mL) saturated with ammonia, commercially available 4,6-dichloro-5-nitropyrimidine (1.00 g, 5.44 mmol) was added, followed by stirring at room temperature for 1 hour. The reaction solution was concentrated, the resulting residue was dissolved in dimethylformamide (10 mL), and then N-tert-butoxycarbonylpiperazine (1.15 g, 6.17 mmol) and triethylamine (3.59 mL, 25.8 mmol) were added thereto, followed by stirring under heating at 80° C. for 4 hours. After the reaction solution was allowed to stand for cooling, it was poured into water, sodium chloride was added thereto, and the precipitated crystals were recovered by filtration, washed with water, and dried to give 4-(6-amino-5-nitro-4-pyrimidinyl)-1-piperazinecarboxylic acid tert-butyl ester (888 mg, 2.74 mmol).

reactant | ammonia | N | H3N
reactant | 4,6-dichloro-5-nitropyrimidine | 5.44 mmol, 1.00 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | N-tert-butoxycarbonylpiperazine | 6.17 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 25.8 mmol, 3.59 mL | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-amino-5-nitro-4-pyrimidinyl)-1-piperazinecarboxylic acid tert-butyl ester | 2.74 mmol, 888 mg, Yield: 50% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1[N+](=O)[O-])N | C13H20N6O4
